US04382089
A mixture of 1.94 g (15 mmol) of 5-oxo-L-proline, 1.1 ml (15 mol) dimethylformamide, and 30 ml of dichloromethane is stirred 0°-5° for 1 hour. A mixture of 2.04 g (10 mmol) of 6-amino-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, [J. Pharm. Sci., 11, 1051 (1963)] 4.2 ml (30 mmol) of triethylamine, 3.8 ml (30 mmol) of chlorotrimethylsilane, and 75 ml of dichloromethane is stirred at room temperature for 40 minutes and then is cooled at 0°. The cold acid chloride solution is added to the cold silylated quinoline and is stirred at 5° for 4 hours and overnight at room temperature. The reaction mixture is evaporated and the residue is treated with water to give 1.81 g of 1,4-dihydro-4-oxo-6-[[(5-oxo-2-pyrrolidinyl)carbonyl]-amino]-3-quinolinecarboxylic acid.

reactant | 5-oxo-L-proline | 15 mmol, 1.94 g | O=C1CC[C@H](N1)C(=O)O | C5H7NO3
reactant | dimethylformamide | 15 mol, 1.1 ml | CN(C=O)C | C3H7NO
reactant | 6-amino-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 10 mmol, 2.04 g | NC=1C=C2C(C(=CNC2=CC1)C(=O)O)=O | C10H8N2O3
reactant | triethylamine | 30 mmol, 4.2 ml | C(C)N(CC)CC | C6H15N
reactant | chlorotrimethylsilane | 30 mmol, 3.8 ml | Cl[Si](C)(C)C | C3H9ClSi
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 1,4-dihydro-4-oxo-6-[[(5-oxo-2-pyrrolidinyl)carbonyl]-amino]-3-quinolinecarboxylic acid | 1.81 g | O=C1C(=CNC2=CC=C(C=C12)NC(=O)C1NC(CC1)=O)C(=O)O | C15H13N3O5
